US08431563B2
2-(4-bromophenyl)-3,3,3-trifluoro-1,2-propanediol (0.35 g, 1.2 mmol), (3S)-3-methyl-1-(2-thiophenylsulfonyl)piperazine (0.20 g, 0.81 mmol), sodium tert-butoxide (0.27 g, 2.8 mmol), dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (RuPhos) (0.076 g, 0.16 mmol, Strem Chemical Inc, Newburyport, Mass.), tris(dibenzylideneacetone)dipalladium (0) (0.074 g, 0.081 mmol, Strem Chemical Inc, Newburyport, Mass.), and toluene (3.3 mL) were added to a high-pressure reaction vessel. The vessel was sealed and heated at 100° C. for 24 h. After cooling to room temperature, was purified via flash chromatography on silica gel (twice, 2% MeOH in CH2Cl2 then 33% EtOAc in hexanes) to afford 2-(4-((2S)-2-methyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-3,3,3-trifluoro-1,2-propanediol (0.017 g) as a mixture of two isomers.

reactant | 2-(4-bromophenyl)-3,3,3-trifluoro-1,2-propanediol | 1.2 mmol, 0.35 g | BrC1=CC=C(C=C1)C(CO)(C(F)(F)F)O | C9H8BrF3O2
reactant | (3S)-3-methyl-1-(2-thiophenylsulfonyl)piperazine | 0.81 mmol, 0.20 g | C[C@H]1CN(CCN1)S(=O)(=O)C=1SC=CC1 | C9H14N2O2S2
reactant | sodium tert-butoxide | 2.8 mmol, 0.27 g | CC(C)([O-])C.[Na+]
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.16 mmol, 0.076 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
catalyst | tris(dibenzylideneacetone)dipalladium | 0.081 mmol, 0.074 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 3.3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-((2S)-2-methyl-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-3,3,3-trifluoro-1,2-propanediol | 0.017 g | C[C@@H]1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C1=CC=C(C=C1)C(CO)(C(F)(F)F)O | C18H21F3N2O4S2
